US05928999
4-Chloro-3-(4-chloro-3-[di(methylsulfonyl)amino]-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.062)
2.3 g (22 mmol) of triethylamine were added to a solution of 3 g (10 mmol) of 3-(3-amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole in 50 ml of dichloromethane. 2.5 g (21 mmol) of methanesulfonyl chloride were added dropwise to this mixture at 0° C. The reaction mixture was stirred at room temperature for 2 hours and then washed with water. The organic phase was subsequently dried over magnesium sulfate and concentrated. The solid product was washed with a little diethyl ether. Yield: 3.1 g.

reactant | triethylamine | 22 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 3-(3-amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 10 mmol, 3 g | NC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C11H9Cl2F2N3O
reactant | methanesulfonyl chloride | 21 mmol, 2.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Chloro-3-(4-chloro-3-[di(methylsulfonyl)amino]-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)N(S(=O)(=O)C)S(=O)(=O)C | C13H13Cl2F2N3O5S2
